US08802704B2
Step 1: 3-[(isopropylamino)methyl]benzonitrile
The title compound was prepared following general procedure 10, starting from 3-(bromomethyl)benzonitrile and isopropyl amine. It was isolated as a yellow liquid (5.7 g, 92%). 1H NMR (DMSO-d6, 400 MHz) δ 7.73 (s, 1H), 7.67 (d, J=7.7 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H), 7.49 (m, 1H), 3.56 (s, 2H), 2.75 (m, 1H), 0.83 (d, J=8.8 Hz, 6H).

reactant | 3-(bromomethyl)benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | 3-[(isopropylamino)methyl]benzonitrile | C(C)(C)NCC=1C=C(C#N)C=CC1 | C11H14N2
